US06645939B1
To a suspension of azetidine-2(S)-carboxylic acid (19.8 mmol, 2.0 g) in methanol (120 mL) at 0° C. was added thionyl chloride (4.0 equiv; 79.2 mmol, 9.43 g, 5.8 mL) dropwise. Dissolution was observed during the addition and the reaction mixture was stirred at ambient temperature overnight (20 h). After this time, solvent was evaporated and the oily residue was azeotroped with toluene and placed under high vacuum to give rise to azetidine-2(S)-carboxylic acid, methyl ester hydrochloride salt as an off-white solid (2.9 g, 96% yield).

reactant | azetidine-2(S)-carboxylic acid | 19.8 mmol, 2.0 g | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | thionyl chloride | 79.2 mmol, 5.8 mL, 9.43 g, 4.0 equiv | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 120 mL | CO | CH4O
product | azetidine-2(S)-carboxylic acid, methyl ester hydrochloride salt | 2.9 g, 96% yield | Cl.N1[C@@H](CC1)C(=O)OC | InChI=1S/C5H9NO2.ClH/c1-8-5(7)4-2-3-6-4;/h4,6H,2-3H2,1H3;1H/t4-;/m0./s1
